US06251926B1
A mixture of 4-(tert-butyldimethylsilyloxy)benzyloxyamine (3.10 g), ethyl 8-oxo-8-phenyloctanoate (6.32 g), acetic acid (2.07 ml), sodium acetate (1.98 g) and ethanol (80 ml) was heated under reflux for 20 hours. The reaction mixture was cooled to room temperature, water was added and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was dissolved in tetrahydrofuran (60 ml), tetrabutylammonium fluoride trihydrate (3.98 g) was added and stirred at room temperature for 1 hour. Water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain ethyl E-8-(4-hydroxybenzyloxyimino)-8-phenyloctanoate (3.55 g, yield 77%) as a colorless oil from an ethyl acetate-hexane (2:7, v/v)-eluted fraction.

reactant | 4-(tert-butyldimethylsilyloxy)benzyloxyamine | 3.10 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(CON)C=C1 | C13H23NO2Si
reactant | ethyl 8-oxo-8-phenyloctanoate | 6.32 g | O=C(CCCCCCC(=O)OCC)C1=CC=CC=C1 | C16H22O3
reactant | acetic acid | 2.07 ml | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 1.98 g | C(C)(=O)[O-].[Na+]
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | water | O | H2O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | ethyl E-8-(4-hydroxybenzyloxyimino)-8-phenyloctanoate | 3.55 g, yield 77% | OC1=CC=C(CO\N=C(/CCCCCCC(=O)OCC)\C2=CC=CC=C2)C=C1 | C23H29NO4
